US07238835B2
(2-{3-[2-(4-Fluorophenyl)oxazol-4-ylmethoxy]phenoxymethyl-}-6-methylbenzoic acid
1 g (6.8 mmol) of 7-methylphthalide and 2 g (7.0 mmol) of 3-[2-(4-fluorophenyl)oxazol-4 -ylmethoxy]phenol are dissolved in NMP. 3.9 ml of methanolic sodium methoxide (30% strength) are added, the methanol is distilled off, and the mixture is heated to 130° C. No formation of 2-{3-[2-(4-fluorophenyl)oxazol-4-ylmethoxy]phenoxymethyl}-6-methylbenzoic acid is observed. The 3-[2-(4-fluorophenyl)oxazol-4-ylmethoxy]phenol decomposes.

reactant | 7-methylphthalide | 6.8 mmol, 1 g | CC=1C=CC=C2COC(=O)C12 | C9H8O2
reactant | 3-[2-(4-fluorophenyl)oxazol-4 -ylmethoxy]phenol | 7.0 mmol, 2 g | FC1=CC=C(C=C1)C=1OC=C(N1)COC=1C=C(C=CC1)O | C16H12FNO3
reactant | sodium methoxide | 3.9 ml | C[O-].[Na+]
solvent | NMP | CN1CCCC1=O | C5H9NO
product | 2-{3-[2-(4-Fluorophenyl)oxazol-4-ylmethoxy]phenoxymethyl-}-6-methylbenzoic acid | FC1=CC=C(C=C1)C=1OC=C(N1)COC=1C=C(OCC2=C(C(=O)O)C(=CC=C2)C)C=CC1 | C25H20FNO5
